US04748177
A mixture of 2-amino-6-chloropurine (5 g, 0.029 mol), 4-(bromomethyl)benzoic acid methyl ester (6.7 g, 0.029 mol), and potassium carbonate (4.0 g, 0.029 mol) in dry DMF (75 ml) is stirred at room temperature for three days. The reaction mixture is filtered and the filtrate is evaporated to near dryness under vacuum. Water is added and the precipitate is collected by filtration to give a mixture of 7- and 9-substituted products (10.5 g). A sample of pure 9-isomer, i.e., 2-amino-9-[(4-carbomethoxyphenyl)methyl)-6-chloropurine, (mp=150°-155° C. softens, 183°-185° C. melts) is prepared by chromatography on silica gel with 5% methanol/chloroform as the eluting solvent to separate it from the slower moving 7-isomer.

reactant | 2-amino-6-chloropurine | 0.029 mol, 5 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | 4-(bromomethyl)benzoic acid methyl ester | 0.029 mol, 6.7 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
reactant | potassium carbonate | 0.029 mol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 2-amino-9-[(4-carbomethoxyphenyl)methyl)-6-chloropurine | NC1=NC(=C2N=CN(C2=N1)CC1=CC=C(C=C1)C(=O)OC)Cl | C14H12ClN5O2
